US06127354
N-((1R)-2-(1,2,3,4-Tetrahydroisoquinolin-2-yl)-1-((2-naphthyl)methyl)-2-oxoethyl)-N-methylcarbamic acid tert-butyl ester (6.12 g, 13.8 mmol) was dissolved in dichloromethane (40 ml). The solution was cooled to 0° C. Trifluoroacetic acid (40 ml) was added. The reaction mixture was stirred for 90 min at 0° C. Dichloromethane (110 ml) and a saturated aqueous solution of sodium hydrogen carbonate (150 ml) were added successively. Solid sodium hydrogen carbonate was added until pH 7 was obtained. The phases were separated. The aqueous phase was extracted with dichloromethane (3×60 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (130 g), using dichloromethane/methanol/25% aqueous ammonia 100:10:1 as eluent, to give 2.20 g of (2R)-1-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(methylamino)-3-(2-naphthyl)-1-propanone.

reactant | N-((1R)-2-(1,2,3,4-Tetrahydroisoquinolin-2-yl)-1-((2-naphthyl)methyl)-2-oxoethyl)-N-methylcarbamic acid tert-butyl ester | 13.8 mmol, 6.12 g | C(C)(C)(C)OC(N(C)[C@@H](C(=O)N1CC2=CC=CC=C2CC1)CC1=CC2=CC=CC=C2C=C1)=O | C28H32N2O3
reactant | Trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 150 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 110 ml | ClCCl | CH2Cl2
product | (2R)-1-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(methylamino)-3-(2-naphthyl)-1-propanone | 2.20 g | C1N(CCC2=CC=CC=C12)C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O | C23H24N2O
